US09056859B2
5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride
5-(prop-2-en-1-yl)-2-benzofuran-1(3H)-one (2.30 g, 13.2 mmol) was dissolved in DCM (30 mL) and cooled to −78° C. Ozone was bubbled through the solution until the color changed (to orange). Nitrogen was bubbled through the solution for about one minute to remove any residual ozone. tert-Butyl piperazine-1-carboxylate (1.64 g, 8.80 mmol) in DCM was added followed by sodium triacetoxyborohydride (11.2 g, 52.8 mmol). The reaction mixture was permitted to warm to room temperature and was stirred overnight. The reaction mixture was partitioned between DCM and water. The organic layer was washed with brine, then dried over MgSO4. The crude product was purified by preparative TLC eluting with 5% methanol in DCM. The resulting 1,1-dimethylethyl-4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate was deprotected (of Boc) as described in Method 1 of the synthesis of 5.

reactant | 5-(prop-2-en-1-yl)-2-benzofuran-1(3H)-one | 13.2 mmol, 2.30 g | C(C=C)C1=CC2=C(C(OC2)=O)C=C1 | C11H10O2
reactant | tert-Butyl piperazine-1-carboxylate | 8.80 mmol, 1.64 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium triacetoxyborohydride | 52.8 mmol, 11.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.N1(CCNCC1)CCC1=CC2=C(C(OC2)=O)C=C1 | InChI=1S/C14H18N2O2.ClH/c17-14-13-2-1-11(9-12(13)10-18-14)3-6-16-7-4-15-5-8-16;/h1-2,9,15H,3-8,10H2;1H
